US04423213
To a solution of benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (3 g) in formic acid (12 ml) was added 35% hydrochloric acid (1ml) at 0° C. After stirring at ambient temperature for an hour, the reaction mixture was poured into diisopropyl ether. The precipitates were collected by filtration, washed with diisopropyl ether and then dissolved in water (15 ml). The aqueous solution was adjusted to pH 3.5 with 5% aqueous sodium bicarbonate. The precipitates were collected by filtration and dried to give 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.5 g).

reactant | benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C42H35N5O7S2
reactant | hydrochloric acid | 1ml | Cl | ClH
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | formic acid | 12 ml | C(=O)O | CH2O2
product | 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.5 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)C=1N=C(SC1)N | C16H15N5O7S2
